US06838463B2
In 6 ml of N,N-dimethylformamide were dissolved 96 mg of 4-chloro-6-(2,3-difluorophenyl)pyrimidine and 26 mg of 2-propyn-1-ol, to which 19 mg of sodium hydride (60% in oil) was added, followed by stirring at room temperature for 8 hours. The reaction mixture was then poured into water and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The resulting residue was subjected to silica gel column chromatography to give 42 mg of 4-(2,3-difluorophenyl)-6-(2-propynyloxy)pyrimidine (the present compound (82)).

reactant | 4-chloro-6-(2,3-difluorophenyl)pyrimidine | 96 mg | ClC1=NC=NC(=C1)C1=C(C(=CC=C1)F)F | C10H5ClF2N2
reactant | 2-propyn-1-ol | 26 mg | C(C#C)O | C3H4O
reactant | sodium hydride | 19 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 4-(2,3-difluorophenyl)-6-(2-propynyloxy)pyrimidine | 42 mg | FC1=C(C=CC=C1F)C1=NC=NC(=C1)OCC#C | C13H8F2N2O
